US07642264B2
2-Chloro-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine
The title compound was prepared from 6-trifluoromethyl-4-(4-trifluoromethylphenyl)-1H-pyrimidin-2-one (8.72 g, 28.3 mmol) and phosphoryl chloride (80 mL) according to the general procedure I. Obtained as a light brown solid (9.13 g, 98%). MS (EI) 326.0 [(M)+]; mp 71.5° C.

reactant | 6-trifluoromethyl-4-(4-trifluoromethylphenyl)-1H-pyrimidin-2-one | 28.3 mmol, 8.72 g | FC(C1=CC(=NC(N1)=O)C1=CC=C(C=C1)C(F)(F)F)(F)F | C12H6F6N2O
reactant | phosphoryl chloride | 80 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | ClC1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C12H5ClF6N2
